US07825253B2
N5-(3,5-Difluoro-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=380.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3,5-difluorobenzylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3,5-difluorobenzylamine | FC=1C=C(CN)C=C(C1)F | C7H7F2N
product | N5-(3,5-Difluoro-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | FC=1C=C(CNC=2C=3C=CC(=NC3C=CC2)NCC=2OC(=CC2)C)C=C(C1)F | C22H19F2N3O
